US07696223B2
b) [(4-Furan-2-yl-7-hydroxy-2-phenyl-thiazolo[4,5-c]pyridine-6-carbonyl)-amino]-acetic acid
A mixture of 4-furan-2-yl-7-hydroxy-2-phenyl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester (78 mg, 0.21 mmole) and glycine (320 mg, 4.26 mmole) in 0.5 M sodium methoxide/methanol (8.1 ml) was refluxed for 4 days before it was cooled to room temperature and concentrated in vacuo. Water (100 ml) and 0.1 N HCl (2.5 ml) were added to the residue and the suspension was extracted with dichloromethane (3×50 ml) and methyl tert-butyl ether (1×50 ml). The resulting yellow-green aqueous solution was acidified to pH=2 with 0.1 N HCl (3.5 ml). The resulting suspension was extracted with dichloromethane, washed with brine, dried over sodium sulfate and concentrated in vacuo to give the title compound as a yellow solid (44 mg). 1H NMR (DMSO-d6, 200 MHz): δ=9.17 (t, 1H), 8.25 (m, 2H), 7.94 (m, 1H), 7.82 (m, 1H), 7.64 (m, 3H), 6.76 (m, 1H), 4.08 (d, J=6.2 Hz, 2H); MS: (+) m/z 395.94 (M+1), (−) m/z 393.94 (M−1).

reactant | 4-furan-2-yl-7-hydroxy-2-phenyl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 0.21 mmole, 78 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)C=1OC=CC1)N=C(S2)C2=CC=CC=C2)O | C19H14N2O4S
reactant | glycine | 4.26 mmole, 320 mg | NCC(=O)O | C2H5NO2
solvent | sodium methoxide methanol | 0.5 M, 8.1 ml | C[O-].[Na+].CO
product | [(4-Furan-2-yl-7-hydroxy-2-phenyl-thiazolo[4,5-c]pyridine-6-carbonyl)-amino]-acetic acid | 44 mg | O1C(=CC=C1)C1=NC(=C(C2=C1N=C(S2)C2=CC=CC=C2)O)C(=O)NCC(=O)O | C19H13N3O5S
